US04001199
b. Preparation of Z-Arg(NO2)-β-Ala-Phe-Phe-Tyr-NH2
In 30 ml. of DMF was dissolved 1.0 g. of Z-β-Ala-Phe-Phe-Tyr-NH2, and using Pd-black as a catalyst, catalytic reduction was carried out for 6 hours. The catalyst was filtered off. To the filtrate was added a solution of Z-Arg(NO2)-ODNP in tetrahydrofuran (the dinitrophenyl ester prepared from 0.52 g. of Z-Arg(NO2)-OH and 0.30 g. of 2,4-dinitrophenol in 10 ml. of tetrahydrofuran by the DCC process). The mixture was stirred for 13 hours and the solvent was distilled off. To the residue was added 50 ml. of water and the resulting powder was collected byy filtration and dried. Yield 1.01 g. (74.9 %); melting point: 192°-194°; [α]D22 -11.1° (c=1.02 %, DMF).

reactant | Z-β-Ala-Phe-Phe-Tyr-NH2 | N(CCC(=O)N[C@@H](CC1=CC=CC=C1)C(=O)N[C@@H](CC1=CC=CC=C1)C(=O)N[C@@H](CC1=CC=C(C=C1)O)C(=O)N)C(=O)OCC1=CC=CC=C1 | C38H41N5O7
reactant | Z-Arg(NO2)-OH | N([C@@H](CCCNC(N[N+](=O)[O-])=N)C(=O)O)C(=O)OCC1=CC=CC=C1 | C14H19N5O6
reactant | 2,4-dinitrophenol | [N+](=O)([O-])C1=C(C=CC(=C1)[N+](=O)[O-])O | C6H4N2O5
reactant | DCC | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
catalyst | Pd | [Pd] | Pd
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | DMF | CN(C)C=O | C3H7NO
product | Z-Arg(NO2)-β-Ala-Phe-Phe-Tyr-NH2 | N([C@@H](CCCNC(N[N+](=O)[O-])=N)C(=O)NCCC(=O)N[C@@H](CC1=CC=CC=C1)C(=O)N[C@@H](CC1=CC=CC=C1)C(=O)N[C@@H](CC1=CC=C(C=C1)O)C(=O)N)C(=O)OCC1=CC=CC=C1 | C44H52N10O10
